### PR TITLE
[Merged by Bors] - feat: the product of a compact space and a paracompact space is a paracompact space

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Paracompact.lean [hunk 1]
```diff
@@ -117,14 +116,64 @@ theorem precise_refinement_set [ParacompactSpace X] {s : Set X} (hs : IsClosed s
     exact Subset.trans (subset_compl_comm.1 <| vu Option.none) vc
 #align precise_refinement_set precise_refinement_set
 
+-- porting note: new lemma
```
Comment (semorrison) [inline Mathlib/Topology/Paracompact.lean:119]:
```suggestion
```

File: Mathlib/Topology/Paracompact.lean [hunk 2]
```diff
@@ -117,14 +116,64 @@ theorem precise_refinement_set [ParacompactSpace X] {s : Set X} (hs : IsClosed s
...
+    choose U hUo hU using fun a ↦ he.isOpen_iff.1 (ho a)
+    simp only [← hU] at hu ⊢
+    have heU : range e ⊆ ⋃ i, U i := by
+      simpa only [range_subset_iff, mem_unionᵢ, unionᵢ_eq_univ_iff] using hu
+    rcases precise_refinement_set he.closed_range U hUo heU with ⟨V, hVo, heV, hVf, hVU⟩
+    refine ⟨α, fun a ↦ e ⁻¹' (V a), fun a ↦ (hVo a).preimage he.continuous, ?_,
+      hVf.preimage_continuous he.continuous, fun a ↦ ⟨a, preimage_mono (hVU a)⟩⟩
+    simpa only [range_subset_iff, mem_unionᵢ, unionᵢ_eq_univ_iff] using heV
+
+-- porting note: new lemma
```
Comment (semorrison) [inline Mathlib/Topology/Paracompact.lean:132]:
```suggestion
```

**Comment by semorrison** [comment]
bors merge
